US04336379
To a suspension of 9.9 g. (0.26 mole) of lithium aluminum hydride and 950 ml. tetrahydrofuran under nitrogen there is added 21.0 g. (0.065 mole) of N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleglyoxylamide in 735 ml. of tetrahydrofuran, while maintaining the temperature between 20° to 25° C. After addition is complete, the mixture is stirred at room temperature for 5 hours then cooled to 0° and quenched by the addition dropwise of 20 ml. of water in 180 ml. of tetrahydrofuran. The resulting solids are filtered and the tetrahydrofuran dried over anhydrous magnesium sulfate, filtered and evaporated. The residue is recrystallized from ethanol to give α-(dimethylaminomethyl)-2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indole-3-methanol; m.p. 178° to 180° C.

reactant | lithium aluminum hydride | 0.26 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleglyoxylamide | 0.065 mole | CN(C(C(=O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)=O)C | C18H19N3O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(dimethylaminomethyl)-2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indole-3-methanol | CN(C)CC(O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC | C18H23N3O2
